US05998459
3-Cyano-5-(4-fluorophenyl)-4-methyl-2-morpholinopyrrole (compound No. 72)
In anhydrous ethanol (10 ml) was dissolved 3-amino-3-morpholinoacrylonitrile, as prepared from ethyl 2-cyano-acetimidate (1.0 g) and morpholine (0.78 g) as in Reference Example 3, followed by addition of sodium hydrogen carbonate (0.95 g). Then, a solution of 2-bromo-4'-fluoropropiophenone (2.06 g) in ethanol was added dropwise thereto at room temperature with stirring. The mixture was refluxed for 10 minutes and, then, stirred at room temperature overnight. The separated crystal crop was collected by filtration and recrystallized from ethanol to provide the title compound as colorless crystals (0.12 g). m.p. 245-247° C.

reactant | ethyl 2-cyano-acetimidate | 1.0 g | C(#N)CC(OCC)=N | C5H8N2O
reactant | morpholine | 0.78 g | N1CCOCC1 | C4H9NO
reactant | sodium hydrogen carbonate | 0.95 g | C(O)([O-])=O.[Na+]
reactant | 2-bromo-4'-fluoropropiophenone | 2.06 g | BrC(C(=O)C1=CC=C(C=C1)F)C | C9H8BrFO
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | 3-amino-3-morpholinoacrylonitrile | NC(=CC#N)N1CCOCC1 | C7H11N3O
product | 3-Cyano-5-(4-fluorophenyl)-4-methyl-2-morpholinopyrrole | 0.12 g | C(#N)C1=C(NC(=C1C)C1=CC=C(C=C1)F)N1CCOCC1 | C16H16FN3O
